US07592456B2
Sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (154 mg, 0.50 mmol), 2-chloro-3-nitropyridine (79 mg, 0.50 mmol) and DMSO (2.5 mL) were combined and the resulting solution stirred at ambient temperature for 19 hours. The solution was partitioned between EtOAc (25 mL) and water (25 mL) and the organic layer was subsequently washed with brine (15 mL), dried (MgSO4), filtered and concentrated in vacuo to afford semi-pure 2-{[6-(4-fluorophenyl)naphthalen-2-yl]sulfonyl}-3-nitropyridine as a yellow solid (189 mg) which was used directly in the following step. 1H NMR (500 MHz, d6-DMSO): δ 8.85 (1H, dd, J=1.3, 4.6 Hz), 8.75-8.73 (1H, m), 8.63 (1H, dd, J=1.3, 8.1 Hz), 8.38 (2H, t, J=7.7 Hz), 8.25 (1H, d, J=8.8 Hz), 8.06 (1H, dd, J=1.7, 8.6 Hz), 7.98-7.92 (4H, m), 7.39 (2H, t, J=8.8 Hz).

reactant | Sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 0.50 mmol, 154 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | 2-chloro-3-nitropyridine | 0.50 mmol, 79 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 2-{[6-(4-fluorophenyl)naphthalen-2-yl]sulfonyl}-3-nitropyridine | 189 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=NC=CC=C1[N+](=O)[O-] | C21H13FN2O4S
